US08802659B2
[6-(4-tert-Butyl-cyclohexyloxy)-naphthalen-2-yl]-acetaldehyde
A solution of 2-[6-(4-tert-butyl-cyclohexyloxy)-naphthalen-2-yl]-ethanol (170 mg, 0.52 mmol) in methylene chloride (5 mL) was added Dess-Martin periodinane (0.31 g, 0.73 mmol). After stirred at room temperature for 1 hour, the solution was diluted with methylene chloride, washed with sodium thiosulfate aqueous, dried over Na2SO4, and concentrated. The crude was purified via silica gel column to afford white solid (120 mg, yield: 70%). ESI-MS: 325.20 (M+H)+.

reactant | 2-[6-(4-tert-butyl-cyclohexyloxy)-naphthalen-2-yl]-ethanol | 0.52 mmol, 170 mg | C(C)(C)(C)C1CCC(CC1)OC=1C=C2C=CC(=CC2=CC1)CCO | C22H30O2
reactant | Dess-Martin periodinane | 0.73 mmol, 0.31 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | [6-(4-tert-Butyl-cyclohexyloxy)-naphthalen-2-yl]-acetaldehyde | 120 mg, yield: 70% | C(C)(C)(C)C1CCC(CC1)OC=1C=C2C=CC(=CC2=CC1)CC=O | C22H28O2
